US05498786
N-(6-Methylthioquinolin-5-yl)-2-(hexylthio)-decanoic amide
(S)-N-(6-Methylthioquinolin-5-yl)-2-bromodecanoic amide (39 mg, 0.09 mmol) in 1 ml of dry THF was added slowly to a suspension containing cesium carbonate (67 mg, 0.20 mmol) and hexanethiol (13 mg, 0.11 mmol) in 2 ml of THF. After 18 hours, the reaction was quenched with 2 ml of 1N HCl and extracted with ethyl acetate (4×10 ml). The organic phase was purified by silica gel column chromatography (eluent: 100% CHCl3) to yield 25 mg (60% yield) of the desired product. 1H NMR (CDCl3) δ8.85 (1H, d, J=3 Hz), 8.62 (1H, s), 8.05 (1H, d, J=9 Hz), 8.00 (1H, d, J=9 Hz), 7.65 (1H, d, J=9 Hz), 7.40 (1H, dd, J=9, 9 Hz), 3.55 (1 H, t, J=8 Hz), 2.80 (2H, t, J=8 Hz), 2.50 (3H, s), 2.20-1.30 (22H, m), 0.91 (6H, t, J=Hz).

reactant | (S)-N-(6-Methylthioquinolin-5-yl)-2-bromodecanoic amide | 0.09 mmol, 39 mg | CSC=1C(=C2C=CC=NC2=CC1)NC([C@H](CCCCCCCC)Br)=O | C20H27BrN2OS
reactant | cesium carbonate | 0.20 mmol, 67 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hexanethiol | 0.11 mmol, 13 mg | C(CCCCC)S | C6H14S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-(6-Methylthioquinolin-5-yl)-2-(hexylthio)-decanoic amide | 25 mg, 60% yield | CSC=1C(=C2C=CC=NC2=CC1)NC(C(CCCCCCCC)SCCCCCC)=O | C26H40N2OS2
